US07956188B2
In a similar procedure to Stage 2, Step 1 of Example 5, 3-iodo-8-methyl-quinolin-6-ol, was reacted with chloro-methylsulfanyl-acetic acid ethyl ester to give (3-iodo-8-methyl quinolin-6-yloxy)-methylsulfanyl-acetic acid ethyl ester as a yellow coloured solid (MH+ 418).

reactant | 3-iodo-8-methyl-quinolin-6-ol | IC=1C=NC2=C(C=C(C=C2C1)O)C | C10H8INO
reactant | chloro-methylsulfanyl-acetic acid ethyl ester | C(C)OC(C(SC)Cl)=O | C5H9ClO2S
product | (3-iodo-8-methyl quinolin-6-yloxy)-methylsulfanyl-acetic acid ethyl ester | C(C)OC(C(SC)OC=1C=C2C=C(C=NC2=C(C1)C)I)=O | C15H16INO3S
